US07517910B2
ethyl 3-[4-({4-[(3,5-di-tert-butyl-1H-pyrazol-1-yl)methyl]benzyl}oxy)-2-fluorophenyl]propanoate
To a solution of 3,5-di-tert-butyl-1H-pyrazole (0.50 g, 2.8 mmol) in N,N-dimethylformamide (10 mL) was added sodium hydride (60% in oil, 0.13 g, 3.3 mmol) under ice-cooling and the mixture was stirred for 20 min. Then ethyl 3-(4-{[4-(chloromethyl)benzyl]oxy}-2-fluorophenyl)propanoate (0.98 g, 2.8 mmol) was added, and the mixture was stirred at room temperature for 3 hr. Water was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The extract washed with aqueous sodium chloride solution, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was subjected to silica gel column chromatography (ethyl acetate:hexane=1:4) to give the title compound (0.73 g, yield 57%) as colorless crystals. melting point 73-74° C.

reactant | 3,5-di-tert-butyl-1H-pyrazole | 2.8 mmol, 0.50 g | C(C)(C)(C)C1=NNC(=C1)C(C)(C)C | C11H20N2
reactant | sodium hydride | 3.3 mmol, 0.13 g | [H-].[Na+]
reactant | ethyl 3-(4-{[4-(chloromethyl)benzyl]oxy}-2-fluorophenyl)propanoate | 2.8 mmol, 0.98 g | ClCC1=CC=C(COC2=CC(=C(C=C2)CCC(=O)OCC)F)C=C1 | C19H20ClFO3
reactant | Water | O | H2O
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | ethyl 3-[4-({4-[(3,5-di-tert-butyl-1H-pyrazol-1-yl)methyl]benzyl}oxy)-2-fluorophenyl]propanoate | 0.73 g, yield 57% | C(C)(C)(C)C1=NN(C(=C1)C(C)(C)C)CC1=CC=C(COC2=CC(=C(C=C2)CCC(=O)OCC)F)C=C1 | C30H39FN2O3
